US07692005B2
2-tert-Butyl-5-methyl-2H-pyrazole-3-carboxylic acid [4-(2-oxo-2,3-dihydro-1H-indole-6-carbonyl)-phenyl]-amide (0.634 g, 1.63 mmol) and ethyl formate (0.391 mL, 4.89 mmol) were dissolved in anhydrous ethanol (3.50 mL). The resulting solution was treated in dropwise fashion with a 21 wt % solution of sodium ethoxide in ethanol (3.05 mL, 8.16 mmol). This reaction mixture was heated at 78° C. for 1 h, producing a black oil. Subsequently, the reaction mixture was cooled to room temperature, and then the reaction pH was adjusted to pH 1 with dropwise addition of 1M HCl(aq) causing the formation of a pale orange precipitate. The suspension was filtered yielding an orange solid as the pure 2-tert-Butyl-5-methyl-2H-pyrazole-3-carboxylic acid [4-(3-hydroxymethylene-2-oxo-2,3-dihydro-1H-indole-6-carbonyl)-phenyl]-amide (0.548 g, 1.32 mmol, 81%).

reactant | 2-tert-Butyl-5-methyl-2H-pyrazole-3-carboxylic acid [4-(2-oxo-2,3-dihydro-1H-indole-6-carbonyl)-phenyl]-amide | 1.63 mmol, 0.634 g | O=C1NC2=CC(=CC=C2C1)C(=O)C1=CC=C(C=C1)NC(=O)C=1N(N=C(C1)C)C(C)(C)C | C24H24N4O3
reactant | ethyl formate | 4.89 mmol, 0.391 mL | C(=O)OCC | C3H6O2
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | HCl | 1M | Cl | ClH
solvent | ethanol | 3.50 mL | C(C)O | C2H6O
solvent | ethanol | 8.16 mmol, 3.05 mL | C(C)O | C2H6O
product | 2-tert-Butyl-5-methyl-2H-pyrazole-3-carboxylic acid [4-(3-hydroxymethylene-2-oxo-2,3-dihydro-1H-indole-6-carbonyl)-phenyl]-amide | 1.32 mmol, 0.548 g, 81% | OC=C1C(NC2=CC(=CC=C12)C(=O)C1=CC=C(C=C1)NC(=O)C=1N(N=C(C1)C)C(C)(C)C)=O | C25H24N4O4
